US09163008B2
To a mixture of methyl 2,6-dichloropyrimidine-4-carboxylate (5.175 g, 25.00 mmol) in acetonitrile (100 mL) was added (S)-methyl 2-aminopropanoate hydrochloride (3.497 g, 25.05 mmol) and iPr2NEt (9.6 mL, 55.1 mmol). The mixture was heated at 50° C. overnight then concentrated in vacuo. The residue was chromatographed over silica gel with 30-70% EtOAc in hexanes. The product fractions were evaporated in vacuo to yield (S)-methyl 2-chloro-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate as a thick yellow-orange oil (4.194 g, 15.33 mmol, 61% yield). LC/MS: m/z=274.2 [M+H]+.

reactant | methyl 2,6-dichloropyrimidine-4-carboxylate | 25.00 mmol, 5.175 g | ClC1=NC(=CC(=N1)C(=O)OC)Cl | C6H4Cl2N2O2
reactant | (S)-methyl 2-aminopropanoate hydrochloride | 25.05 mmol, 3.497 g | Cl.N[C@H](C(=O)OC)C
reactant | iPr2NEt | 55.1 mmol, 9.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-methyl 2-chloro-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate | 15.33 mmol, 4.194 g, 61% yield | ClC1=NC(=CC(=N1)C(=O)OC)N[C@H](C(=O)OC)C | C10H12ClN3O4
